Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.92592533125
[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11],-8.2243917601
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-4.4973507147800005
[O:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],0.510965439305
[O:1]=[C:2]([C:3][H:4])[C:5]#[C:6][O:7][H:8]>>[C:5]#[C:6][O:7][H:8].[O:1][C:2]#[C:3][H:4],2.6025280174
[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]1[C:2][C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.63679461179
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:1][O:2][C:3][H:4],3.57400127
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],8.60193406737
[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.09483065543
[H:1][O:2][C:3]1=[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4])[C:9]([C:6]([O:5])([H:7])[H:8])([H:10])[H:11],3.0254299006400003
[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4][C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],3.89254065111
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8]>>[C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8].[H:1],3.86220357648
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1([H:7])[H:8]>>[O:1]=[C:2][C:6]([O:5][C:3][H:4])([H:7])[H:8],2.78350863626
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[O:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:10][H:11],-0.807596782248
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],7.6790994663199985
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.26618517809
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-1.6424920765600002
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:3][C:5](=[C:4])[H:6],6.3034185992900005
[H:6].[O:1]=[C:2]([O:3][C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.44659780984
[O:1]=[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-1.1502265577200002
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.79262605062
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5].[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],4.525253964630001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7],4.65255656377
[H:7].[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-2.36420407809
[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11],-1.49830652613
[C:8]([H:9])#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],-2.38054321565
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:9]=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12],1.7075985163799998
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])=[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5],1.5663660437
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.30046432218
